US04250094
In the manner given in Preparation 2, 7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl-hydrazine was reacted with α-chlorobutyryl chloride (CHE--CH2 --CHCl--COCl) to give 8-chloro-1-(α-chloropropyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepin-2-yl-hydrazine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=C(C=CC=C2)Cl)C1 | C15H12Cl2N4
reactant | α-chlorobutyryl chloride | ClC(C(=O)Cl)CC | C4H6Cl2O
product | 8-chloro-1-(α-chloropropyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)C(CC)Cl)C3=C(C=CC=C3)Cl)C1 | C19H15Cl3N4
